US08138173B2
Thionyl chloride (6.0 mL, 9.9 g, 82.9 mmol) was added dropwise to a stirring suspension of 2-tert-butyl-1-(hydroxymethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one (4.5 g, 16.6 mmol) in 1,2-dichloroethane (160 mL) and the resulting suspension was stirred at ambient temperature overnight. The volatiles were removed under reduced pressure to yield 5.34 g of 2-tert-butyl-1-(chloromethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one hydrochloride as a brown solid.

reactant | Thionyl chloride | 82.9 mmol, 6.0 mL, 9.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-tert-butyl-1-(hydroxymethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 16.6 mmol, 4.5 g | C(C)(C)(C)N1N=C2C(NC=3C=CC=CC3C2=C1CO)=O | C15H17N3O2
solvent | 1,2-dichloroethane | 160 mL | ClCCCl | C2H4Cl2
product | 2-tert-butyl-1-(chloromethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one hydrochloride | 5.34 g | Cl.C(C)(C)(C)N1N=C2C(NC=3C=CC=CC3C2=C1CCl)=O | InChI=1S/C15H16ClN3O.ClH/c1-15(2,3)19-11(8-16)12-9-6-4-5-7-10(9)17-14(20)13(12)18-19;/h4-7H,8H2,1-3H3,(H,17,20);1H
